US07732446B1
As described in Example 1, 60 mg of {4-[(benzyl-methyl-carbamoyl)-methyl]-6,7-dimethoxy-isoquinolin-1-ylmethyl}-carbamic acid tert-butyl ester was treated with HCl in EtOAc to give 31 mg (66%) of 2-(1-aminomethyl-6,7-dimethoxy-isoquinolin-4-yl)-N-benzyl-N-methyl-acetamide hydrochloride. MS: APCI (M+H) calc'd for C22H25N3O3+H 380.5; found 380.1.

reactant | {4-[(benzyl-methyl-carbamoyl)-methyl]-6,7-dimethoxy-isoquinolin-1-ylmethyl}-carbamic acid tert-butyl ester | 60 mg | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)CC(N(C)CC1=CC=CC=C1)=O)=O | C27H33N3O5
reactant | HCl | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(1-aminomethyl-6,7-dimethoxy-isoquinolin-4-yl)-N-benzyl-N-methyl-acetamide hydrochloride | 31 mg, 66% | Cl.NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)CC(=O)N(C)CC1=CC=CC=C1 | InChI=1S/C22H25N3O3.ClH/c1-25(14-15-7-5-4-6-8-15)22(26)9-16-13-24-19(12-23)18-11-21(28-3)20(27-2)10-17(16)18;/h4-8,10-11,13H,9,12,14,23H2,1-3H3;1H
